US04507316
N-(3-Phenylcarbamoylthio-2-methyl-propanoyl)-N-cyclopentyl glycine
A mixture of 4.9 g (0.02M) of N-(3-mercapto-2-methyl propanoyl)-N-cyclopentyl glycine and 8 ml of phenyl isocyanate in 5 ml methylene chloride was stirred at room temperature for 72 hours. The mixture was diluted with ether and filtered. The ether solution was washed with water, dried over MgSO4 and evaporated to dryness. The crude residue was dissolved in acetonitrile, treated with charcoal and crystallized by addition of ether, m.p. 170°-172° C.

reactant | N-(3-mercapto-2-methyl propanoyl)-N-cyclopentyl glycine | 0.02M, 4.9 g | SCC(C(=O)N(CC(=O)O)C1CCCC1)C | C11H19NO3S
reactant | phenyl isocyanate | 8 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | N-(3-Phenylcarbamoylthio-2-methyl-propanoyl)-N-cyclopentyl glycine | C1(=CC=CC=C1)NC(=O)SCC(C(=O)N(CC(=O)O)C1CCCC1)C | C18H24N2O4S
